* source LM311
.EXTERNAL INPUT COL_OUT
.EXTERNAL INPUT EMIT_OUT
.EXTERNAL INPUT Vpu
.EXTERNAL INPUT IN-
.EXTERNAL INPUT IN+
.EXTERNAL INPUT VCC+
.EXTERNAL INPUT VCC-
V_V1         IN+ 0  
+SIN 0 0.5 500k 0 0 0
V_VPU         VPU 0 3.3V
V_VINN         IN- 0 0
V_V+         VCC+ 0 5V
V_V-         0 VCC- 5V
R_R1         VPU COL_OUT  10k TC=0,0 
X_U1         IN+ IN- VCC+ VCC- VCC+ COL_OUT EMIT_OUT LM311
R_R2         0 EMIT_OUT  1m TC=0,0 
